* column_decoder_new


.subckt inv_2 2 4 5 
*.CELL_INFO DEVICE_LEVELED 1-pmos
M1 4 5 2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.0000 $Y=0.0420 
.ends inv_2

.subckt and_2 2 4 5 
*.CELL_INFO DEVICE_LEVELED 1-pmos 1-nmos
M1 5 4 2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.6125 $Y=0.3135 
.ends and_2

.subckt demu_2_4 3 4 6 7 8 9 10 11 
M1 15 10 22 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8690 $Y=0.0955 
M2 22 11 3 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.8270 $Y=0.1442 
M3 14 5 20 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.6170 $Y=0.0955 
M4 20 11 3 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.5750 $Y=0.1442 
M5 13 10 18 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.3650 $Y=0.0955 
M6 18 2 3 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.3230 $Y=0.1442 
M7 12 5 23 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.1130 $Y=0.0955 
M8 23 2 3 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.0710 $Y=0.1438 
M9 9 15 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.9950 $Y=0.1660 
M10 15 10 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.9110 $Y=0.1913 
M11 15 11 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.8270 $Y=0.1442 
M12 8 14 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.7430 $Y=0.1660 
M13 14 5 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.6590 $Y=0.1913 
M14 14 11 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.5750 $Y=0.1442 
M15 7 13 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.4910 $Y=0.1660 
M16 13 10 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.4070 $Y=0.1913 
M17 13 2 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.3230 $Y=0.1442 
M18 6 12 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.2390 $Y=0.1660 
M19 4 11 2 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.1550 $Y=0.3235 
M20 12 5 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.1550 $Y=0.1908 
M21 4 10 5 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.0710 $Y=0.3235 
M22 12 2 4 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.0710 $Y=0.1438 
X179B9F192 3 13 7 and_2 $T=-0.1215 -0.1475 0 0 
X179B9F193 3 14 8 and_2 $T=0.1305 -0.1475 0 0 
X179B9F194 3 15 9 and_2 $T=0.3825 -0.1475 0 0 
X179B9F195 3 12 6 and_2 $T=-0.3735 -0.1475 0 0 
X179B9F196 3 2 11 inv_2 $T=0.1550 0.3655 0 180 
X179B9F197 3 5 10 inv_2 $T=0.0710 0.3655 0 180 
.ends demu_2_4

.subckt column_decoder_new VDD! GND! OUT_0 B0 OUT_1 B1 OUT_2 B2 OUT3 B3 OUTB_0 B0B 
+    OUTB_1 B1B OUTB_2 B2B OUTB_3 B3B B4 B5 B6 B7 B4B B5B B6B B7B B8 B9 B10 B11 B8B 
+    B9B B10B B11B B12 B13 B14 B15 B12B B13B B14B B15B 44 45 46 47 A0 A1 
M1 B15B 47 OUTB_3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=2.6665 $Y=0.0963 
M2 B14B 47 OUTB_2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=2.5825 $Y=0.0963 
M3 B13B 47 OUTB_1 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=2.4985 $Y=0.0963 
M4 B12B 47 OUTB_0 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=2.4145 $Y=0.0963 
M5 B15 47 OUT3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=2.3305 $Y=0.0963 
M6 B14 47 OUT_2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=2.2465 $Y=0.0963 
M7 B13 47 OUT_1 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=2.1625 $Y=0.0963 
M8 B12 47 OUT_0 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=2.0785 $Y=0.0963 
M9 B11B 46 OUTB_3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.9945 $Y=0.0963 
M10 B10B 46 OUTB_2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=1.9105 $Y=0.0963 
M11 B9B 46 OUTB_1 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.8265 $Y=0.0963 
M12 B8B 46 OUTB_0 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.7425 $Y=0.0963 
M13 B11 46 OUT3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.6585 $Y=0.0963 
M14 B10 46 OUT_2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.5745 $Y=0.0963 
M15 B9 46 OUT_1 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.4905 $Y=0.0963 
M16 B8 46 OUT_0 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.4065 $Y=0.0963 
M17 B7B 45 OUTB_3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.3225 $Y=0.0963 
M18 B6B 45 OUTB_2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.2385 $Y=0.0963 
M19 B5B 45 OUTB_1 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.1545 $Y=0.0963 
M20 B4B 45 OUTB_0 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=1.0705 $Y=0.0963 
M21 B7 45 OUT3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.9865 $Y=0.0963 
M22 B6 45 OUT_2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.9025 $Y=0.0963 
M23 B5 45 OUT_1 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.8185 $Y=0.0963 
M24 B4 45 OUT_0 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.7345 $Y=0.0963 
M25 B3B 44 OUTB_3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.6505 $Y=0.0963 
M26 B2B 44 OUTB_2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.5665 $Y=0.0963 
M27 B1B 44 OUTB_1 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.4825 $Y=0.0963 
M28 B0B 44 OUTB_0 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.3985 $Y=0.0963 
M29 B3 44 OUT3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.3145 $Y=0.0963 
M30 B2 44 OUT_2 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.2305 $Y=0.0963 
M31 B1 44 OUT_1 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.1465 $Y=0.0963 
M32 B0 44 OUT_0 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.0625 $Y=0.0963 
X179B9F191 GND! VDD! 44 45 46 47 A0 A1 demu_2_4 $T=-1.5540 -0.1390 0 0 
.ends column_decoder_new

